US05789412
44A: 2-bromo-1-[4-(2,3-dimethylphenyl)piperazin-1-yl]ethanone
1-(2,3-Xylyl)piperazine hydrochloride (5 g; 25 mmol) is suspended in dichloromethane and triethylamine (7.6 ml; 54 mmol) is added. The mixture is cooled to 0° C. and bromoacetyl bromide (2.4 ml; 27 mmol) is added dropwise. The reaction is stirred for 30 minutes and then diluted in dichloromethane, washed with half-saturated sodium bicarbonate solution and dried over magnesium sulfate. The final product is purified by flash chromatography with a gradient of eluents (30/70 to 50/50; EtOAc-Pet. ether).

reactant | 1-(2,3-Xylyl)piperazine hydrochloride | 25 mmol, 5 g | Cl.C1(=C(C(=CC=C1)C)C)N1CCNCC1
reactant | triethylamine | 54 mmol, 7.6 ml | C(C)N(CC)CC | C6H15N
reactant | bromoacetyl bromide | 27 mmol, 2.4 ml | BrCC(=O)Br | C2H2Br2O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-bromo-1-[4-(2,3-dimethylphenyl)piperazin-1-yl]ethanone | BrCC(=O)N1CCN(CC1)C1=C(C(=CC=C1)C)C | C14H19BrN2O
